US07888376B2
To a solution of 4-(trifluoromethyl)pyrimidine-2-thiol (1.08 g, 6.0 mmol) in THF (40 mL) was added 1N NaOH (10 mL), followed by the addition of MeI (0.8 mL). The reaction mixture was stirred at room temperature overnight, followed by addition of CH2Cl2. The organic layer was washed with saturated NaHCO3, H2O, and saturated NaCl, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel, hexanes: EtOAc=1:10) to give 2-(methylthio)-4-(trifluoromethyl)pyrimidine as colorless oil (0.6 g). This colorless oil was dissolved in CH2Cl2, and to the solution mCPBA (1.8 g) was added. The resulting mixture was stirred at room temperature for 3 h. To the reaction mixture saturated Na2SO4 (10 mL) was added, followed by the addition of saturated Na2CO3. The aqueous portion was extracted with CH2Cl2 twice and the organic portions were dried over Na2SO4, filtered, and concentrated to give 2-(methylsulfonyl)-4-(trifluoromethyl)pyrimidine as white solids (0.64 g, 46% yield for two steps,). LC-MS RT=1.19 min, [M+Na] 249.06 (LCMS Method 1).

reactant | 4-(trifluoromethyl)pyrimidine-2-thiol | 6.0 mmol, 1.08 g | FC(C1=NC(=NC=C1)S)(F)F | C5H3F3N2S
reactant | NaOH | 1N, 10 mL | [OH-].[Na+]
reactant | MeI | 0.8 mL | CI | CH3I
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-(methylthio)-4-(trifluoromethyl)pyrimidine | 0.6 g | CSC1=NC=CC(=N1)C(F)(F)F | C6H5F3N2S
